US06121271
4-(2,3-Dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diethyl -phenol
The title compound was prepared according to the procedure in Example 1, step 5, using (2-benzyl-4,5-dimethylthiophen-3-yl)-(3,5-diethyl-4-methoxy-phenyl)-methanone (17.67 g, 45.0 mmol) and boron tribromide (12.8 mL, 0.135 mol) to give 16.63 g, of the title compound. 1H NMR (DMSO-d6) δ 1.15 (t, 6 H), 1.61 (s, 3 H), 2.40 (s, 3 H), 2.59-2.73 (m, 4 H), 6.86 (s, 2 H), 7.32 (ddd, 1 H), 7.42 (ddd, 1 H), 7.47 (d, 1 H), 7.93 (d, 1 H), 8.31 (s, 1 H), 8.41 (s, 1 H). mass spectrum (+ESI) m/z 360 (M+).

reactant | (2-benzyl-4,5-dimethylthiophen-3-yl)-(3,5-diethyl-4-methoxy-phenyl)-methanone | 45.0 mmol, 17.67 g | C(C1=CC=CC=C1)C=1SC(=C(C1C(=O)C1=CC(=C(C(=C1)CC)OC)CC)C)C | C25H28O2S
reactant | boron tribromide | 0.135 mol, 12.8 mL | B(Br)(Br)Br | BBr3
product | 4-(2,3-Dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-diethyl -phenol | CC1=C(C2=C(S1)C=C1C=CC=CC1=C2C2=CC(=C(C(=C2)CC)O)CC)C | C24H24OS
